US08034931B2
Production of 1-methyl-3-(3-pyridylmethylideneamino)-3,4-dihydro-6-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]-2(1H)-quinazolinone (compound No. 1)
In 10 ml of dimethylformamide was dissolved 0.84 g (2.0 mmol) of 3-(3-pyridylmethylideneamino)-3,4-dihydro-6-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]-2(1H)-quinazolinone, and to the resulting solution was added 0.09 g (2.3 mmol) of sodium hydride (purity: 62.4%). The reaction was carried out at room temperature for 30 minutes, after which 0.34 g (2.4 mmol) of methyl iodide was added and the reaction was carried out for 4 hours. After completion of the reaction, the reaction solution was poured into ice water and the desired compound was extracted with ethyl acetate (20 ml×3). The extract solution was washed with water and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated in vacuo. The crude product thus obtained was purified by silica gel column chromatography (ethyl acetate−methanol=10:1) to obtain 0.44 g of the desired compound.

reactant | 3-(3-pyridylmethylideneamino)-3,4-dihydro-6-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]-2(1H)-quinazolinone | 2.0 mmol, 0.84 g | N1=CC(=CC=C1)C=NN1C(NC2=CC=C(C=C2C1)C(C(F)(F)F)(C(F)(F)F)F)=O | C17H11F7N4O
reactant | sodium hydride | 2.3 mmol, 0.09 g | [H-].[Na+]
reactant | methyl iodide | 2.4 mmol, 0.34 g | CI | CH3I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-methyl-3-(3-pyridylmethylideneamino)-3,4-dihydro-6-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]-2(1H)-quinazolinone | 0.44 g, Yield: 50.7% | CN1C(N(CC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)F)N=CC=1C=NC=CC1)=O | C18H13F7N4O
